US04260763
3-Chloro-1-(3-chlorophenyl)-isoquinoline-4-aldehyde
199 g of phosphorus oxichloride are added dropwise to a solution of 99 g of N,N-dimethyl formamide in 400 ml of tetrahydrofuran at a rate such that the temperature does not exceed 5° C. Stirring is continued for 20 minutes at room temperature. Next, 87.7 g of 1-(3-chlorophenyl)-1,4-dihydro-3-(2H)-isoquinolinone are added in portions at 0° C. After a 2 hour stirring at 0° to 5° C., the reaction solution is poured into a mixture of 1.95 l of 2N NaOH, 6 kg of ice and 1 l of toluene. The toluene phase is separated, washed twice with water and added to 1.3 l of acetone and 1.3 l of 2N H2SO4. 38.8 g of carefully pulverized potassium permanganate are added in portions and at 20° C. to the heterogeneous mixture obtained and the mixture is stirred for 6 hours. The toluene phase is separated, washed successively with water, 2N NaOH and again with water, dried, filtered and the solvent is removed under reduced pressure.

reactant | phosphorus oxichloride | 199 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethyl formamide | 99 g | CN(C=O)C | C3H7NO
reactant | 1-(3-chlorophenyl)-1,4-dihydro-3-(2H)-isoquinolinone | 87.7 g | ClC=1C=C(C=CC1)C1NC(CC2=CC=CC=C12)=O | C15H12ClNO
reactant | NaOH | 2N, 1.95 l | [OH-].[Na+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
product | 3-Chloro-1-(3-chlorophenyl)-isoquinoline-4-aldehyde | ClC=1N=C(C2=CC=CC=C2C1C=O)C1=CC(=CC=C1)Cl | C16H9Cl2NO
